US07319104B2
2-[4-(2-{[4-(2-Methoxyphenyl)-1,3-thiazol-2-yl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from ethyl 2-[4-(2-{(aminocarbonothioyl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and 2-methoxyphenacyl bromide.

reactant | ethyl 2-[4-(2-{(aminocarbonothioyl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | NC(=S)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C23H27F3N2O3S
reactant | 2-methoxyphenacyl bromide | COC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO2
product | 2-[4-(2-{[4-(2-Methoxyphenyl)-1,3-thiazol-2-yl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | COC1=C(C=CC=C1)C=1N=C(SC1)N(CCC1=CC=C(OC(C(=O)O)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C30H29F3N2O4S
